US07479559B2
4-(5-Bromo-pyridin-2-yl)-morpholine
2,5-Dibromopyridine (7.1 g, 30 mmol), morpholine (1.74 mL, 20 mmol), cesium carbonate (9.1 g, 28 mmol), tris(dibenzylideneacetone)dipalladium(0) (183 mg, 0.2 mmol), and racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (374 mg, 0.6 mmol) in toluene (20 mL) was heated at 120° C. for 24 hours. After cooling to room temperature, the mixture was filtered through Celite™ and the Celite™ pad was washed with chloroform. The solution was concentrated in vacuo and was purified by silica gel chromatography (200:1 chloroform-methanol) to give 2.9 g (60% yield) of the title compound. 13C NMR (100 MHz, CDCl3) d 158.3, 148.7, 140.0, 108.4, 66.8, 45.7; MS (AP/Cl) 243.0, 245.0 (M+H)+.

reactant | 2,5-Dibromopyridine | 30 mmol, 7.1 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | morpholine | 20 mmol, 1.74 mL | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 28 mmol, 9.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.2 mmol, 183 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.6 mmol, 374 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 4-(5-Bromo-pyridin-2-yl)-morpholine | 2.9 g, 60% yield | BrC=1C=CC(=NC1)N1CCOCC1 | C9H11BrN2O
